US08283353B2
ethyl [(trans-4-{6-[(2′-cyano-2-methylbiphenyl-4-yl)methyl]-2-methyl-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]acetate
To a mixture of 4′-{[4-(trans-4-hydroxycyclohexyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}-2′-methylbiphenyl-2-carbonitrile (1.01 g), rhodium(I) acetate (0.30 g) and toluene (20 mL) was added dropwise a solution of ethyl diazoacetate (1.20 g) in toluene (10 mL) at 70° C., and the mixture was stirred at the same temperature for 30 min. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless oil (0.71 g, 60%).

reactant | 4′-{[4-(trans-4-hydroxycyclohexyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}-2′-methylbiphenyl-2-carbonitrile | 1.01 g | O[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC(=C(C=C1)C=1C(=CC=CC1)C#N)C)CCC)N=C(N2)C | C30H33N5O2
reactant | ethyl diazoacetate | 1.20 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | water | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | rhodium(I) acetate | 0.30 g | C(C)(=O)[O-].[Rh+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl [(trans-4-{6-[(2′-cyano-2-methylbiphenyl-4-yl)methyl]-2-methyl-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]acetate | 0.71 g, 60% | C(#N)C1=C(C=CC=C1)C1=C(C=C(C=C1)CC=1C(N(C=2N(C1CCC)N=C(N2)C)[C@@H]2CC[C@H](CC2)OCC(=O)OCC)=O)C | C34H39N5O4
